US09376436B2
A solution of 1-(3-benzyloxy-4-fluoro-phenyl)pyrazole (which may be prepared as described in Description 71) (649.1 mg, 2.42 mmol) in methanol (20 mL) was hydrogenated through an H-Cube 10% Pd/C (70 mm cartridge) at 50° C. at a flow rate of 1 ml/minute. The eluent was collected and concentrated in vacuo to give 2-fluoro-5-pyrazol-1-yl-phenol (D72) (352.5 mg, 1.8796 mmol, 77.7% yield) as a colourless oil;

reactant | 1-(3-benzyloxy-4-fluoro-phenyl)pyrazole | 2.42 mmol, 649.1 mg | C(C1=CC=CC=C1)OC=1C=C(C=CC1F)N1N=CC=C1 | C16H13FN2O
solvent | methanol | 20 mL | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | 2-fluoro-5-pyrazol-1-yl-phenol | 1.8796 mmol, 352.5 mg, 77.7% yield | FC1=C(C=C(C=C1)N1N=CC=C1)O | C9H7FN2O
